Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
increased seizure frequency
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year-old right-handed woman with a history of bipolar
disorder, ADD, depression, and convulsive episodes with a recent
diagnosis of epilepsy presents after increasing seizure 
frequency
over the past three days.  After presenting to the ED ___ 
(see
my note from that date ___ in the context of a seizure with
head trauma, she kept her follow-up appointment with her
epileptologists, Dr. ___ on ___
afternoon.  It was decided to switch to Keppra because the
oxcarbazepine was causing headache and because she needed a
medication that could be rapidly titrated.  Keppra was started 
at
500 mg BID with a titration plan.  Alprazolam was resumed at 
0.25
mg q am, to replace one of the three doses of lorazepam she was
taking daily, as the former medication has a longer half-life. 
There was also concern that the alprazolam was previously
discontinued too quickly.  Dr. ___ that ___ was
advised to have the switch done as an inpatient because of the
high frequency of seizures she's experiencing, but she preferred
to do it as an outpatient.... she was advised to come to the ED
if she has bad or prolonged seizures and then she would be
admitted." 

The patient had two seizures on ___, followed by two during
the daytime on ___.  On ___ night, she had
consecutive seizures, each lasting several minutes, without a
return to baseline between these two events.  The final seizure
was slightly prolonged, at ___ minutes, with a somewhat 
prolonged
post-ictal period (unspecified duration).  Today, she was told
that she would have to withdraw from classes at school given the
frequency of her events and concern for her safety.  This
evening, the patient had three further seizures in a 10 to 15
minute period.  The first seizure lasted 2 minutes, followed by 
a
30 second inter-ictal period, then another 3 minute seizure. 
This was followed by a five-minute event with a subsequent 
period
of impaired arousal for ~10 minutes.  All of these events were
described as her "typical" convulsive episodes.  Her mother
called EMS, and the patient was brought to the ___ ED, where
the patient had two additional seizures.  She received 1 mg IV
ativan for each event.  I witnessed the end of the second event,
which consisted of a convulsive episode with arms extended in 
the
air.

Review of systems:
Denies F/C, N/V/D.  She is taking her medications faithfully, 
and
reports eating and sleeping regularly.  Her mother believes that
her speech is "off" since starting oxcarbazepine.  She currently
denies headache, but continues to have ictal and inter-ictal
headaches as described in the prior note from ___.

 
Past Medical History:
-Recent diagnosis of epilepsy:
Her seizure history is well-detailed in recent notes.  On the
recent admission for EEG LTM from ___ to ___, she had
numerous seizures, including staring spells, leftward gaze
deviation, raising her arms, and left facial twitching
occasionally leading to full body convulsions.  The seizure 
focus
on EEG was bifrontal and right posterior, and ictal SPECT showed
increased uptake in the left frontal and temporal lobes. 
Interictal SPECT revealed increased uptake in the left temporal
region.  She was started oxcarbazepine 300 mg BID, which was
increased to 450 mg BID on ___.  Covered with Ativan 1 mg TID
for one day after the ictal SPECT, then next day to 1 mg BID,
then to 1 mg daily the following day.  She was discharged home 
on
0.5 mg Ativan po BID prn increased seizure frequency for two
weeks.  Of note, her lamotrigine was discontinued on admission
out of concern for increased seizure frequency on this
medication. 
-Brain cyst (possibly arachnoid), diagnosed on MRI from ___
-Attention deficit disorder 
-Bipolar disorder
-Depression 

 
Social History:
___
Family History:
No epilepsy
 
Physical Exam:
Vitals: T 98.8 F    BP 133/88   P ___  RR 16  SaO2 100 RA
General: NAD, well nourished
HEENT: sclerae anicteric, MMM, no exudates in oropharynx
Neck: supple, no nuchal rigidity
Lungs: clear to auscultation 
CV: regular rate and rhythm, no MMRG 
Abdomen:  soft, non-tender, non-distended, bowel sounds present
Ext: warm, no edema, pedal pulses appreciated
Skin: no rashes
 
Neurologic Examination: 
Mental Status: 
Awake and alert, able to relay history, cooperative with exam,
normal affect, oriented to person, place, time; attention: can
say days of week backward; language: fluent, non-dysarthric
speech, no paraphasic errors, comprehension intact; no evidence 
of apraxia or neglect 
 
Cranial Nerves: 
Optic disc margins sharp; Visual fields are full to
confrontation. Pupils equally round and reactive to light, 6 to 
5
mm bilaterally.  Extraocular movements intact, no nystagmus.
Facial sensation intact bilaterally.  Facial movement normal and
symmetric.  Hearing intact to finger rub bilaterally. Palate 
elevates
midline.  Tongue protrudes midline, no fasciculations.  Trapezii
full strength bilaterally. 
 
Motor: 
Normal bulk and tone throughout. 
      D T B WE FiF ___ IP  Q  H  TA  ___  
Right ___ 5  5    ___  ___  5   5     
Left  ___ 5  5    ___  ___  5   5     
 
Sensation: No deficits to light touch, pin prick, temperature
(cold), vibration, and proprioception throughout. 
 
Reflexes: B T Br Pa Pl 
Right     ___  2  2 
Left      ___  2  2  
Toes were downgoing bilaterally. 
 
Coordination: No intention tremor noted. No dysmetria on FNF or
HKS bilaterally. 
 
Gait: Deferred

 
Pertinent Results:
___ 06:50PM   GLUCOSE-91 UREA N-11 CREAT-0.7 SODIUM-138 
POTASSIUM-4.9 CHLORIDE-105 TOTAL CO2-22 ANION GAP-16
___ 06:50PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 06:50PM   WBC-5.7 RBC-4.54 HGB-12.9 HCT-37.6 MCV-83 
MCH-28.4 MCHC-34.3 RDW-13.0
___ 06:50PM   NEUTS-51.3 ___ MONOS-7.3 EOS-2.5 
BASOS-1.0
___ 06:50PM   PLT COUNT-377
 
Brief Hospital Course:
Neurology - CT head 1. No intracranial hemorrhage or evidence of 
other acute abnormalities. 2. Unchanged retrocerebellar 
arachnoid cyst versus ___ cisterna magna. 3. Stable 
ventriculomegaly without transependymal edema.  On admission, 
increased keppra to 750mg po bid, increased alprazolam to 0.25mg 
po bid, increased ativan to 0.5mg po tid, and continued 
trileptal at 750 bid.  Quickly increased keppra ___.  ___ 
weaned trileptal to 600mg bid, but increased back to 600/750 due 
to increased seizure frequency.  LTM captured multiple events, 
less convincingly epilpetic than events captured during last 
admission.  Also able to stop spells with reassurance at times.  
Last couple of days before discharge having ___ episodes/day. 
Typically arms raised and shaking, not always symmetric and 
sometimes suppressable, verbalizations and biting the tip of her 
tongue.  After spells stutters over her words at times.  At time 
she received ativan, but she often did not require ativan or 
only needed 0.5mg.  

MRI/MRA ___ with mildly prominent ventricles, otherwise 
normal.  

Arranged for magnetoencephalogram at ___ to help with seizure 
localization, which will be done ___ am.  Patient is discharged 
from BI to go to the study, them will be re-admitted through the 
ED.  

On discharge, neurologic exam without focal deficits.

Tox/metabolic - Electrolytes within normal limits.  Urine and 
serum tox screens negative.  

ID - UA negative.  No infectious concerns.  
 
Medications on Admission:
-Oxcarbazepine 750 mg BID (just increased from 600 mg BID 
___ 
-Ativan 0.5 mg q pm and q hs 
-CONCERTA 18 mg SR daily 
-Folic Acid 1 mg daily
-Seasonale OCP  
-Venlafaxine 150 mg SR daily  
-Alprazolam 0.25 mg daily in am (since ___
-Keppra 500mg po bid
 
Discharge Medications:
1. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
3. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
4. Alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
5. Seasonale 0.15-30 mg-mcg Tablet, Dose Pack, 3 Months Sig: One 
(1) Tablet, Dose Pack, 3 Months PO daily ().  
6. Concerta 18 mg Tab,Sust Rel Osmotic Push 24hr Sig: One (1) 
Tab,Sust Rel Osmotic Push 24hr PO daily ().  
7. Oxcarbazepine 600 mg Tablet Sig: One (1) Tablet PO twice a 
day: 600mg each morning, 750 mg each evening.  
8. Oxcarbazepine 150 mg Tablet Sig: One (1) Tablet PO QPM (once 
a day (in the evening)).  
9. Levetiracetam 500 mg Tablet Sig: Three (3) Tablet PO QAM 
(once a day (in the morning)).  
10. Levetiracetam 500 mg Tablet Sig: Four (4) Tablet PO QPM 
(once a day (in the evening)).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
epilepsy

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted with increased seizure frequency.  During 
admission you had spells which were both seizures and others 
without changes on EEG.  We are titrating your seizure medicine 
to better control your events.  

Please go to the Magnetoencephalogram study as scheduled today.  
Then come back to ___ to be re-admitted through 
the emergency room.  
 
Followup Instructions:
___